US07323455B2
2-Bromo-N-{4-bromo-2-[hydroxy(dithien-2-yl)methyl]phenyl}acetamide
Prepared from (2-amino-5-bromophenyl)(dithien-2-yl)methanol and bromoacetyl chloride using the procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.22 (s, 1H), 8.42 (s, 1H), 8.05 (d, J=9.0 Hz, 1H) 7.59 (m, 3H), 7.05 (m, 2H), 6.87 (m, 2H), 6.78 (d, J=3 Hz, 1H), 3.92 (s, 2H); MS (ES) m/z 484 (M−H)−.

reactant | (2-amino-5-bromophenyl)(dithien-2-yl)methanol | NC1=C(C=C(C=C1)Br)C(O)(C=1SC=CC1)C=1SC=CC1 | C15H12BrNOS2
reactant | bromoacetyl chloride | BrCC(=O)Cl | C2H2BrClO
product | 2-Bromo-N-{4-bromo-2-[hydroxy(dithien-2-yl)methyl]phenyl}acetamide | BrCC(=O)NC1=C(C=C(C=C1)Br)C(C=1SC=CC1)(C=1SC=CC1)O | C17H13Br2NO2S2
